datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:5],43.8902
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23],115.144
[O:0][O:1][H:2].[c:3]1([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14]>>[O:0]([O:1][H:2])[H:9].[c:3]1[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14],120.9176
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:10])([H:8])[H:9],64.601
[O:0]([O:1][H:3])[H:2].[O:4][C:5](=[O:6])[H:7]>>[H:2][O:4][C:5](=[O:6])[H:7].[O:0][O:1][H:3],41.84
[H:0].[c:1]1[c:2]([H:17])[c:3]([H:18])[c:4]2[c:5]([H:19])[c:6]([H:20])[c:7]3[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]4[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]2[c:16]34>>[H:0][c:1]1[c:2]([H:17])[c:3]([H:18])[c:4]2[c:5]([H:19])[c:6]([H:20])[c:7]3[c:8]([H:21])[c:9]([H:22])[c:10]([H:23])[c:11]4[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]2[c:16]34,0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:7])[H:6],61.2538
[C:4]([C:5]([O:6][H:12])([C:7]([C:8]([H:15])([H:16])[H:17])([H:13])[H:14])[H:11])([H:9])[H:10].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5]([O:6][H:12])([C:7]([C:8]([H:15])([H:16])[H:17])([H:13])[H:14])[H:11])([H:9])[H:10].[O:0][O:1][H:3],6.35968
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([S:10][H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9]([S:10][H:13])([H:11])[H:12],52.4674
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([H:13])[H:14])[H:8])([H:6])[H:7],163.385
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:18][O:19][H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:15][O:18][O:19][H:20],59.99856
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]([S:13][H:16])[H:15])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:14])([S:13][H:16])[H:15],46.4424
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9](=[C:10]([H:12])[H:13])[H:11],-1.6736
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:23]([C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27])[H:13])([H:11])[H:12],49.5386
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]#[C:9][C:10]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])=[C:9][C:10]([H:14])([H:15])[H:16])[H:3],53.4715
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:10])([H:11])[H:12])=[S:9],-5.8576
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([c:27]1[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]1[H:41])[H:36])([H:33])([H:34])[H:35]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:26]([C:25]([H:33])([H:34])[H:35])([c:27]1[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]1[H:41])[H:36],64.4336
